US07642264B2
2-(3-Chloro-[1,2,4]triazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from 2-chloro-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyridine (example A.17) (1.628 g, 5.0 mmol) and commercially available 3-chloro-1H-(1,2,4)triazole (0.776 g, 7 mmol) according to the general procedure IVa. Obtained as a white solid (1.651 g, 84%). MS (ISP) 393.1 [(M+H)+] and 395 [(M+2+H)+].

reactant | 2-chloro-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyridine | 5.0 mmol, 1.628 g | ClC1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C13H6ClF6N
reactant | 3-chloro-1H-(1,2,4)triazole | 7 mmol, 0.776 g | ClC1=NNC=N1 | C2H2ClN3
product | 2-(3-Chloro-[1,2,4]triazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClC1=NN(C=N1)C1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C15H7ClF6N4
